### PR TITLE
[Merged by Bors] - feat: add `of_eq` versions for lemmas on composition of derivatives

### PR DESCRIPTION
**Pull request by sgouezel**
The versions we have assume that `f` is differentiable at `h x` and `h` is differentiable at `x`, to deduce that `f o h` is differentiable at `x`. In many applications, we have that `f` is differentiable at some point which happens to be equal to `h x`, but not definitionally, so one needs to jump through some hoops to apply the composition lemma. We add `of_eq` versions assuming instead that `f` is differentiable at `y` and that `y = h x`, which is much more flexible in practice.

---

This could be done throughout the library for many composition-like lemmas. I'm only doing it in the file `Deriv.Comp` in this PR.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/Deriv/Comp.lean [hunk 1]
```diff
@@ -164,34 +236,77 @@ theorem HasDerivWithinAt.comp (hh₂ : HasDerivWithinAt h₂ h₂' s' (h x))
   exact hh₂.scomp x hh hst
 #align has_deriv_within_at.comp HasDerivWithinAt.comp
 
-/-- The chain rule. -/
+/-- The chain rule.
+
+Note that the function `h₂` is a function on an algebra. If you are looking for the chain rule
+with `h₂` taking values in a vector space, use `HAsDerivAt.scomp`. -/
```
Comment (ADedecker) [inline Mathlib/Analysis/Calculus/Deriv/Comp.lean:242]:
```suggestion
with `h₂` taking values in a vector space, use `HasDerivAt.scomp`. -/
```

File: Mathlib/Analysis/Calculus/Deriv/Comp.lean [hunk 2]
```diff
@@ -164,34 +236,77 @@ theorem HasDerivWithinAt.comp (hh₂ : HasDerivWithinAt h₂ h₂' s' (h x))
...
 nonrec theorem HasDerivAt.comp (hh₂ : HasDerivAt h₂ h₂' (h x)) (hh : HasDerivAt h h' x) :
     HasDerivAt (h₂ ∘ h) (h₂' * h') x :=
   hh₂.comp x hh hh.continuousAt
 #align has_deriv_at.comp HasDerivAt.comp
 
+/-- The chain rule.
+
+Note that the function `h₂` is a function on an algebra. If you are looking for the chain rule
+with `h₂` taking values in a vector space, use `HAsDerivAt.scomp_of_eq`. -/
```
Comment (ADedecker) [inline Mathlib/Analysis/Calculus/Deriv/Comp.lean:251]:
```suggestion
with `h₂` taking values in a vector space, use `HasDerivAt.scomp_of_eq`. -/
```

File: Mathlib/Analysis/Calculus/Deriv/Comp.lean [hunk 3]
```diff
@@ -164,34 +236,77 @@ theorem HasDerivWithinAt.comp (hh₂ : HasDerivWithinAt h₂ h₂' s' (h x))
...
+theorem HasDerivAt.comp_of_eq
+    (hh₂ : HasDerivAt h₂ h₂' y) (hh : HasDerivAt h h' x) (hy : y = h x) :
+    HasDerivAt (h₂ ∘ h) (h₂' * h') x := by
+  rw [hy] at hh₂; exact hh₂.comp x hh
+
+theorem HasDerivAtFilter.comp_of_eq (hh₂ : HasDerivAtFilter h₂ h₂' y L')
+    (hh : HasDerivAtFilter h h' x L) (hL : Tendsto h L L') (hy : y = h x) :
+    HasDerivAtFilter (h₂ ∘ h) (h₂' * h') x L := by
+  rw [hy] at hh₂; exact hh₂.comp x hh hL
```
Comment (ADedecker) [inline Mathlib/Analysis/Calculus/Deriv/Comp.lean:260]: Why not put it next to `HasDerivAtFilter.comp`?

File: Mathlib/Analysis/Calculus/Deriv/Comp.lean [hunk 4]
```diff
@@ -164,34 +236,77 @@ theorem HasDerivWithinAt.comp (hh₂ : HasDerivWithinAt h₂ h₂' s' (h x))
...
 
+theorem HasStrictDerivAt.comp_of_eq
+    (hh₂ : HasStrictDerivAt h₂ h₂' y) (hh : HasStrictDerivAt h h' x) (hy : y = h x) :
+    HasStrictDerivAt (h₂ ∘ h) (h₂' * h') x := by
+  rw [hy] at hh₂; exact hh₂.comp x hh
+
+theorem HasDerivWithinAt.comp_of_eq (hh₂ : HasDerivWithinAt h₂ h₂' s' y)
+    (hh : HasDerivWithinAt h h' s x) (hst : MapsTo h s s') (hy : y = h x) :
+    HasDerivWithinAt (h₂ ∘ h) (h₂' * h') s x := by
+  rw [hy] at hh₂; exact hh₂.comp x hh hst
```
Comment (ADedecker) [inline Mathlib/Analysis/Calculus/Deriv/Comp.lean:276]: Similar question, why not put it next to `HasDerivWithinAt.comp` ?

**Review by ADedecker — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Analysis/Calculus/Deriv/Comp.lean (hunk 3 above)
Comment (sgouezel) [reply Mathlib/Analysis/Calculus/Deriv/Comp.lean]: Thanks for spotting this! Fixed.

**Comment by sgouezel** [comment]
bors r+
Thanks for the review!
